US08048897B2
(2) Synthesis of 4-(2,2-Difluorovinyl)benzaldehyde
In a nitrogen stream, a 2M hydrochloric acid aqueous solution (2.5 mL) was added to a solution of 1-diethoxymethyl-4-(2,2-difluorovinyl)benzene (998.1 mg, 4.12 mmol) in ether (4 mL) cooled in an ice bath and the reaction mixture was stirred at the same temperature for three minutes and at room temperature for 3.75 hours. The reaction mixture was extracted with ether and the organic layer was washed with a saturated sodium hydrogen carbonate aqueous solution and a saturated sodium chloride aqueous solution, and dried over sodium sulfate. The solvent was distilled under reduced pressure to obtain a crude compound.

reactant | hydrochloric acid | 2M, 2.5 mL | Cl | ClH
reactant | 1-diethoxymethyl-4-(2,2-difluorovinyl)benzene | 4.12 mmol, 998.1 mg | C(C)OC(C1=CC=C(C=C1)C=C(F)F)OCC | C13H16F2O2
solvent | ether | 4 mL | CCOCC | C4H10O
product | 4-(2,2-Difluorovinyl)benzaldehyde | FC(=CC1=CC=C(C=O)C=C1)F | C9H6F2O
